US09303040B2
To a solution of formamidine HCl salt (37.3 g, 463 mmol) in ethanol (300 mL) was slowly added NaOEt (21%, 169 mL, 453 mmol). The mixture was stirred at room temperature for 1 hour and then filtered. To the filtrate was added methyl 2-methyl-4-oxo-tetrahydrothiophene-3-carboxylate (79 g, 453 mmol). The mixture was stirred at room temperature for 1 hour and then refluxed overnight. After cooling, the solvent was removed and the residue was purified by silica gel chromatography, eluted with Hexane/ethyl acetate (2:1-0:1)-DCM/MeOH (20:1) to afford 5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-ol (36 g, 47%). 1H NMR (CDCl3, 400 MHz) δ 12.83 (s, 1H), 4.68 (m, 1H), 4.32-4.08 (m, 2H), 1.66 (m, 3H). MS (APCI+) [M+H]+ 169.

reactant | formamidine HCl salt | 463 mmol, 37.3 g | Cl.C(=N)N
reactant | NaOEt | 453 mmol, 169 mL | CC[O-].[Na+]
reactant | methyl 2-methyl-4-oxo-tetrahydrothiophene-3-carboxylate | 453 mmol, 79 g | CC1SCC(C1C(=O)OC)=O | C7H10O3S
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-ol | 36 g, 47% | CC1SCC=2N=CN=C(C21)O | C7H8N2OS
